US08754114B2
Step 3: N-[3-(7-{6-[4-(methoxyacetyl)piperazin-1-yl]pyridin-3-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
A mixture of N-{3-[7-(6-piperazin-1-ylpyridin-3-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea (20.5 mg, 0.0413 mmol) HCl salt, methoxyacetyl chloride (5.66 μL, 0.0619 mmol) and N,N-diisopropylethylamine (40.0 μL, 0.230 mmol) in DMSO (0.5 mL) was stirred at RT for 1 h. The mixture was diluted with DMSO, and purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=569.2.

reactant | N-{3-[7-(6-piperazin-1-ylpyridin-3-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | 0.0413 mmol, 20.5 mg | N1(CCNCC1)C1=CC=C(C=N1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C24H23F3N8O
reactant | methoxyacetyl chloride | 0.0619 mmol, 5.66 μL | COCC(=O)Cl | C3H5ClO2
reactant | N,N-diisopropylethylamine | 0.230 mmol, 40.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | N-[3-(7-{6-[4-(methoxyacetyl)piperazin-1-yl]pyridin-3-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | COCC(=O)N1CCN(CC1)C1=CC=C(C=N1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C27H27F3N8O3
